US04617314
2-Methyl-5-methylthio-2,3-dihydrobenzofuran-7-carboxylic acid, 4.6 g, is dissolved in 50 ml of acetone, 6.9 ml of triethylamine is added and the whole is stirred. Under cooling at 10° C. 2.7 g of ethyl chlorocarbonate is added dropwise for 3-5 minutes. After stirring at room temperature for 30 minutes, 3.4 g of 1-ethyl-2-aminomethylpyrrolidine is added and the reactant is stirred at room temperature for 20 minutes and allowed to stand for 15 hours. Then, excess triethylamine and acetone are distilled off under reduced pressure. To the resulting residue is added 50 ml of water, and the solution is extracted three times with ethyl acetate. The ethyl acetate extract layer is washed with sodium bicarbonate saturated aqueous solution, water and sodium chloride saturated water in this sequence, dried and blown into by hydrochloric acid gas. Excess hydrochloric acid gas and ethyl acetate are distilled off under reduced pressure. To the residue are added 60 ml of ethyl acetate and 30 ml of ether to cause crystallization at 0° C. Deposited crude crystals are recrystallized from a mixed solvent of ethyl acetate/isopropanol (100/7) to give crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylthio-2,3-dihydrobenzofuran-7-carboxamide hydrochloride, m.p. 145°-150° C.

reactant | 2-Methyl-5-methylthio-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=C(C=C2C(=O)O)SC | C11H12O3S
reactant | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-ethyl-2-aminomethylpyrrolidine | 3.4 g | C(C)N1C(CCC1)CN | C7H16N2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-methylthio-2,3-dihydrobenzofuran-7-carboxamide hydrochloride | Cl.C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)SC | InChI=1S/C18H26N2O2S.ClH/c1-4-20-7-5-6-14(20)11-19-18(21)16-10-15(23-3)9-13-8-12(2)22-17(13)16;/h9-10,12,14H,4-8,11H2,1-3H3,(H,19,21);1H
